US05811389
A solution of 10.8 g (40 mmol) of 3,6-dimethoxy-9,9-dimethylxanthene [prepared according to Coll. Czech. Chem. Commun. 24 (1959), 1061] in absolute ether was cooled, to 0° to -5°. 50 ml of a 1.6M butyllithium solution (in hexane) were added dropwise while stirring. 9.04 g (80 mmol) of N-formylpiperidine were added dropwise after 15 hours and the mixture was subsequently stirred at 0° for 1 hour and at room temperature for 2 hours. Thereafter, the reaction mixture was poured into acidic (pH 1) ice-water, whereupon it was extracted twice with 200 ml of ether each time. The combined extracts were washed neutral with ice-water, dried over Na2SO4 and concentrated. The residual oil was purified on silica gel with hexane/ethyl acetate and thereafter crystallized from t-butyl methyl ether/hexane. There were obtained 7.1 g of 3,6-dimethoxy-9,9-dimethylxanthene-4-carboxaldehyde of m.p. 84.5°-86°; IR 2966, 1688, 1637, 1605, 1568, 1515, 1486 cm-1.

reactant | 3,6-dimethoxy-9,9-dimethylxanthene | 40 mmol, 10.8 g | COC=1C=CC=2C(C3=CC=C(C=C3OC2C1)OC)(C)C | C17H18O3
reactant | butyllithium | 1.6M | C(CCC)[Li]
reactant | N-formylpiperidine | 80 mmol, 9.04 g | C(=O)N1CCCCC1 | C6H11NO
solvent | ether | CCOCC | C4H10O
product | 3,6-dimethoxy-9,9-dimethylxanthene-4-carboxaldehyde | 7.1 g | COC=1C=CC=2C(C3=CC=C(C=C3OC2C1C=O)OC)(C)C | C18H18O4
